US09145415B2
To a solution of 4-((5-(5-oxo-1-pentyn-1-yl)-4-(propylamino)pyrimidin-2-yl)amino)benzonitrile (G12, 300 mg) and tert-butyl (2-amino-2-methylpropyl)(methyl)carbamate (G10, 112 mg) in methylene chloride (4 mL), sodium triacetoxyborohydride (195 mg) and acetic acid (21 μL) were added at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 80% ethyl acetate in methanol) to obtain tert-butyl (2-((5-(2-((4-cyanophenyl)amino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-2-methylpropyl)(methyl)carbamate (G13, 80 mg).

reactant | 4-((5-(5-oxo-1-pentyn-1-yl)-4-(propylamino)pyrimidin-2-yl)amino)benzonitrile | 300 mg | O=CCCC#CC=1C(=NC(=NC1)NC1=CC=C(C#N)C=C1)NCCC | C19H19N5O
reactant | tert-butyl (2-amino-2-methylpropyl)(methyl)carbamate | NC(CN(C(OC(C)(C)C)=O)C)(C)C | C10H22N2O2
reactant | sodium triacetoxyborohydride | 195 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 21 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (2-((5-(2-((4-cyanophenyl)amino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-2-methylpropyl)(methyl)carbamate | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCC)C#CCCCNC(CN(C(OC(C)(C)C)=O)C)(C)C | C29H41N7O2
